US06596734B1
Benzyl-2-nitrophenyl Ether.
A mixture of 2-nitrophenol (27.82 g˜0.18 mol, Lancaster, contains ca 10% H2O), K2CO3 (33.15 g, 0.24 mol), and benzyl chloride (30.38 g, 27.6 ml, 0.24 mol) was heated at 100° C. for 1.5 h. The resulting mixture was poured in 1.3 L of water and extracted with CHCl3 tree times, washed twice with 50% brine, dried with Na2SO4, filtered and concentrated. Distillation in vacuum gave 39.23 g (96%), bp 161-162° C. (˜0.1 mm Hg).

reactant | 2-nitrophenol | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | K2CO3 | 0.24 mol, 33.15 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl chloride | 0.24 mol, 27.6 ml, 30.38 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | water | 1.3 L | O | H2O
product | Benzyl-2-nitrophenyl Ether | C(C1=CC=CC=C1)C=1C(=C(C=CC1)OC1=C(C(=CC=C1)CC1=CC=CC=C1)[N+](=O)[O-])[N+](=O)[O-] | C26H20N2O5
